US07763657B2
Step 1: [1-(4-Amino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester
[1-(4-Amino-3-iodophenyl)ethyl]carbamic acid tert-butyl ester (500 mg, 1.380 mmol, 1 eq.), dichloro(bistriphenylphosphine) palladium (48.4 mg, 0.069 mmol, 0.05 eq.) and copper iodide 13.1 mg (0.069 mmol, 0.05 eq.) were added in THF. After stirring for 30 min at room temperature, TEA (577.0 μl, 4.140 mmol, 3 eq) and phenylacetylene (197.0 μl, 1.794 mmol, 1.3 eq) were added into the reaction mixture. The reaction mixture was stirred overnight with reflux. A reaction solvent was removed in vacuo. The residue was purified with column chromatography (n-Hx:EA=5:1) to yield title compound (452.7 mg) as a yellow liquid.

reactant | [1-(4-Amino-3-iodophenyl)ethyl]carbamic acid tert-butyl ester | 1.380 mmol, 500 mg, 1 eq. | C(C)(C)(C)OC(NC(C)C1=CC(=C(C=C1)N)I)=O | C13H19IN2O2
reactant | phenylacetylene | 1.794 mmol, 197.0 μl, 1.3 eq | C1(=CC=CC=C1)C#C | C8H6
solvent | THF | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.069 mmol, 13.1 mg, 0.05 eq. | [Cu](I)I
product | [1-(4-Amino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester | 452.7 mg | C(C)(C)(C)OC(NC(C)C1=CC(=C(C=C1)N)C#CC1=CC=CC=C1)=O | C21H24N2O2
